US05750724
N-(3-{[4-(5-Methoxy-1 H-indol-3-yl)-butylamino]-methyl}-2,3-dihydrobenzo[1,4]dioxin-6-yl)-methanesulfonamide
5-Methoxyindole-3-butyric acid (0.75 g, 3.2 mmole), 1-hydroxybenzotriazole hydrate (0.52 g, 3.8 mmole) and 1,3-diisopropylcarbodiimide (1.2 ml, 7.6 mmole) were combined in 100 ml of DMF and stirred at room temperature for 2 hours under a nitrogen atmosphere. To this was added dropwise 7-methylsulfonylamino-2,3-dihydro-1,4-benzodioxin-2-methanamine hydrochloride (0.9 g, 3.2 mmole) in 50 ml of DMF and the mixture was further stirred for 48 hours. The solvent was removed and the residue partitioned between dichloromethane and water. The separated dichloromethane layer was dried over anhydrous sodium sulfate, filtered and concentrated in vacuum. The residue was chromatographed on a silica gel column using first ethyl acetate and then 2.5% methanol in ethyl acetate as eluants. Fractions were concentrated and washed with a minimum amount of THF to remove a byproduct and to give 1.2 g (79%) of the desired product, (7-methylsulfonyl amino-2,3-dihydro-benzo[1,4]dioxin-2-ylmethyl)-4-(5-methoxy-1H-indol-3-yl)-butanamide, as a oily white solid.

reactant | 5-Methoxyindole-3-butyric acid | 3.2 mmole, 0.75 g | COC=1C=C2C(=CNC2=CC1)CCCC(=O)O | C13H15NO3
reactant | 1-hydroxybenzotriazole hydrate | 3.8 mmole, 0.52 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1,3-diisopropylcarbodiimide | 7.6 mmole, 1.2 ml | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | 7-methylsulfonylamino-2,3-dihydro-1,4-benzodioxin-2-methanamine hydrochloride | 3.2 mmole, 0.9 g | Cl.CS(=O)(=O)NC=1C=CC2=C(OC(CO2)CN)C1
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | N-(3-{[4-(5-Methoxy-1 H-indol-3-yl)-butylamino]-methyl}-2,3-dihydrobenzo[1,4]dioxin-6-yl)-methanesulfonamide | 1.2 g, 79% | COC=1C=C2C(=CNC2=CC1)CCCCNCC1OC2=C(OC1)C=CC(=C2)NS(=O)(=O)C | C23H29N3O5S
